US03954834
Preparation of methyl 2-iso-pentyl-3-oxocyclopentanecarboxylate
In a 0.5-L three necked flask fitted with a reflux condenser, a mechanical stirrer, and a gas inlet tube, is placed a solution of 17.9 g of 2-iso-pentyl-3-cyanocyclopentanone and 2 ml of water in 200 ml of absolute methanol. Dry hydrogen chloride is passed through the refluxing solution for a period of 2 hours. The reaction mixture is maintained at reflux temperature for an additional hour. The methanol is distilled off at a reduced pressure and the residue is diluted with 300 ml of cold water. The organic layer is separated and the water phase is extracted with pentane. The combined organic layer and pentane extract are washed with sodium carbonate solution and water and dried over anhydrous sodium sulphate. The solvent is distilled off at atmospheric pressure and the residue is distilled through a short Vigreux column. Methyl 2-iso-pentyl-3-oxo-cyclopentanecarboxylate is collected at 94.5°C/0.7 mm, yield 14 g (67%), nD20 1.4561.

reactant | 2-iso-pentyl-3-cyanocyclopentanone | 17.9 g | C(CC(C)C)C1C(CCC1C#N)=O | C11H17NO
reactant | water | 2 ml | O | H2O
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 200 ml | CO | CH4O
product | methyl 2-iso-pentyl-3-oxocyclopentanecarboxylate | C(CC(C)C)C1C(CCC1=O)C(=O)OC | C12H20O3
